US06727264B1
2-METHYL-N-{3-[1-(6-{[(1-NAPHTHYLAMINO)CARBONYL]AMINO}HEXYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 1-naphthyl isocyanate: ESMS m/e: 515.3 (M+H)+.

reactant | N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C21H35N3O
reactant | 1-naphthyl isocyanate | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-METHYL-N-{3-[1-(6-{[(1-NAPHTHYLAMINO)CARBONYL]AMINO}HEXYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCCCNC(=O)NC1=CC=CC2=CC=CC=C12)C | C32H42N4O2
